US09034873B2
In a Schlenk tube at −10° C., 1.7 ml (2.6 mmol) of butyllithium (1.5M in hexane) are added, dropwise, to a solution of 0.4 ml (2.6 mmol) of freshly distilled diisopropylamine in anhydrous THF (50 ml). After 5 min, 0.70 ml (2.6 mmol) of tributyltin hydride is added. The stirring is maintained for 30 min at 0° C. A pale green solution of tributylstannyllithium is obtained, which solution will be cooled to −78° C. before adding, dropwise, 294.5 μl (2.6 mmol) of 2-bromo-6-methyl-pyridine. The mixture is kept at −78° C. for two hours. After a return to ambient temperature, the solvent is evaporated off under vacuum. The residue is taken up with dichloromethane and then washed with water. The organic phase is dried over MgSO4, and evaporated to dryness. The product is purified by chromatography on an alumina column (eluent: ethyl acetate/petroleum ether=0.5/9.5), the stannylated pyridine 22 being isolated in the form of a yellow oil, with a yield of 82%.

reactant | butyllithium | 2.6 mmol, 1.5M, 1.7 ml | C(CCC)[Li]
reactant | diisopropylamine | C(C)(C)NC(C)C | C6H15N
reactant | tributyltin hydride | 2.6 mmol, 0.70 ml | C(CCC)[SnH](CCCC)CCCC
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | tributylstannyllithium | C(CCC)[Sn](CCCC)(CCCC)[Li] | InChI=1S/3C4H9.Li.Sn/c3*1-3-4-2;;/h3*1,3-4H2,2H3;;
